US08207168B2
A mixture of 1-(4-methoxyphenyl)propan-2-one (16.4 g, 100 mmol) and glyoxalic acid hydrate (9.20 g, 100 mmol) were heated to 135° C. overnight, then the water was distilled off at 120° C. for 2 h. The residue was taken up in 40 mL of ethanol with stirring as methylhydrazine (10.5 mL, 200 mmol) was added dropwise. The reaction was heated to 85° C. overnight. The solvent was evaporated and the residue was dissolved in 200 mL of methylene chloride and washed with 5% NaHCO3 solution (2×20 mL), saturated NaCl solution, then dried over Na2SO4 and concentrated. The residue was purified by silica gel chromatography (2% MeOH in CH2Cl2) to give 5-(4-methoxyphenyl)-2,6-dimethyl-2H-pyridazin-3-one (4.2 g) MS m/z 231 (M+H).

reactant | 1-(4-methoxyphenyl)propan-2-one | 100 mmol, 16.4 g | COC1=CC=C(C=C1)CC(C)=O | C10H12O2
reactant | glyoxalic acid hydrate | 100 mmol, 9.20 g | O.C(C=O)(=O)O
reactant | methylhydrazine | 200 mmol, 10.5 mL | CNN | CH6N2
product | 5-(4-methoxyphenyl)-2,6-dimethyl-2H-pyridazin-3-one | 4.2 g | COC1=CC=C(C=C1)C1=CC(N(N=C1C)C)=O | C13H14N2O2
